US07265111B2
1-(3-Chloro-phenyl)-pyrrolidin-3(S)-ylamine hydrochloride (300 mg, 1.29 mmoles) prepared as in step 4 of example 1 and 6-chloro-9-((3aS,4R,6S,6aR)-6-fluoromethyl-2,2-dimethyl-tetrahydro-cyclopenta-1,3-dioxol-4-yl)-9H-purine (420 mg, 1.29 mmoles) prepared as described above were combined in EtOH (12 ml), NEt3 (730 μl, 5.15 mmoles) was then added and the resulting brown solution was stirred at reflux under an argon atmosphere. After 22 h, the reaction mixture was cooled to room temperature, evaporated to dryness, the residue was partitioned between water and EtOAc, the aqueous layer was separated and extracted two times with EtOAc. The combined organic layers are washed with brine and dried over magnesium sulfate. The filtrate is concentrated under reduced pressure to give a residue which is purified by flash chromatography on silica gel eluting with 40% EtOAc in cyclohexane followed by 5% MeOH in CH2Cl2 to yield [(S)-1-(3-chloro-phenyl)-pyrrolidin-3-yl]-[9-((3aS,4R,6S,6aR)-6-fluoromethyl-2,2-dimethyl -tetrahydro-cyclopenta-1,3-dioxol-4-yl)-9H-purin-6-yl]-amine

reactant | 1-(3-Chloro-phenyl)-pyrrolidin-3(S)-ylamine hydrochloride | 1.29 mmoles, 300 mg | Cl.ClC=1C=C(C=CC1)N1C[C@H](CC1)N
reactant | 6-chloro-9-((3aS,4R,6S,6aR)-6-fluoromethyl-2,2-dimethyl-tetrahydro-cyclopenta-1,3-dioxol-4-yl)-9H-purine | 1.29 mmoles, 420 mg | ClC1=C2N=CN(C2=NC=N1)[C@@H]1C[C@@H]([C@H]2OC(O[C@H]21)(C)C)CF | C14H16ClFN4O2
reactant | NEt3 | 5.15 mmoles, 730 μl | CCN(CC)CC | C6H15N
solvent | EtOH | 12 ml | CCO | C2H6O
product | [(S)-1-(3-chloro-phenyl)-pyrrolidin-3-yl]-[9-((3aS,4R,6S,6aR)-6-fluoromethyl-2,2-dimethyl -tetrahydro-cyclopenta-1,3-dioxol-4-yl)-9H-purin-6-yl]-amine | ClC=1C=C(C=CC1)N1C[C@H](CC1)NC1=C2N=CN(C2=NC=N1)[C@@H]1C[C@@H]([C@H]2OC(O[C@H]21)(C)C)CF | C24H28ClFN6O2
